US05157038
Preparation of 8-benzyl-4-methylene-2-oxo-1,3-dioxa-8-azaspiro[4,5]decane
Dry gaseous hydrogen chloride is introduced at 20° to 50° C. during 2.5 to 3 hours into a solution containing 31.4 g of 1-benzyl-4-butylcarbamoyloxy-4-ethynylpiperidine in 157 ml of anhydrous dioxane. After standing overnight the reaction mixture is evaporated in a water bath of 40° to 50° C. temperature under reduced pressure. After adding 200 ml of water to the evaporation residue the base is liberated by sodium hydrogen carbonate. After filtration the solid precipitate is washed to chloride-free with water and dried. The crude product obtained is recrystallized from n-hexane under clarifying by activated carbon to give the title compound in 80.6% yield, m.p.: 65°-67° C.

reactant | hydrogen chloride | Cl | ClH
reactant | 1-benzyl-4-butylcarbamoyloxy-4-ethynylpiperidine | 31.4 g | C(C1=CC=CC=C1)N1CCC(CC1)(C#C)OC(NCCCC)=O | C19H26N2O2
reactant | dioxane | 157 ml | O1CCOCC1 | C4H8O2
product | 8-benzyl-4-methylene-2-oxo-1,3-dioxa-8-azaspiro[4,5]decane | 80.6% yield | C(C1=CC=CC=C1)N1CCC2(C(OC(O2)=O)=C)CC1 | C15H17NO3
